US07615568B2
H. N-(5-Chloropyridin-2-yl)-3-[4-(methylthio)-2-(piperidin-4-yloxy)benzoylamino]pyridine-2-carboxamide
The 3-[2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(methylthio)benzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide (184 mg, 0.31 mmol) was dissolved in TFA (4 mL). After 5 minutes, the reaction was concentrated in vacuo. The residue was diluted with dichloromethane (100 mL) and extracted with saturated aqueous sodium carbonate (2×10 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated to give the desired product as a white solid (139 mg, 0.28 mmol, 90%).

reactant | 3-[2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(methylthio)benzoylamino]-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide | 0.31 mmol, 184 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)NC=2C(=NC=CC2)C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)SC | C29H32ClN5O5S
solvent | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(5-Chloropyridin-2-yl)-3-[4-(methylthio)-2-(piperidin-4-yloxy)benzoylamino]pyridine-2-carboxamide | 0.28 mmol, 139 mg, 90% | ClC=1C=CC(=NC1)NC(=O)C1=NC=CC=C1NC(C1=C(C=C(C=C1)SC)OC1CCNCC1)=O | C24H24ClN5O3S
